US06143466
EXAMPLE 1-1: Synthesis of 2,3-di-t-butoxycarbonyl 5-norbornene
34 g (0.3 mol) of potassium t-butoxide was dissolved in 250 mL of THF in a round-bottom flask and then 22 g (0.1 mol) of 5-norbornene-2,3-dicarbonyl chloride was slowly added thereto at room temperature to be reacted at 45° C. for about 12 hours.

reactant | potassium t-butoxide | 0.3 mol, 34 g | CC(C)([O-])C.[K+]
reactant | 5-norbornene-2,3-dicarbonyl chloride | 0.1 mol, 22 g | C12C(C(C(C=C1)C2)C(=O)Cl)C(=O)Cl | C9H8Cl2O2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2,3-di-t-butoxycarbonyl 5-norbornene | C(C)(C)(C)OC(=O)C1C2C=CC(C1C(=O)OC(C)(C)C)C2 | C17H26O4
